US04473697
To a suspension of 2-nitro-4-thiocyanato-aniline, 22,3 g. of powdered iron, 40 ml. of 96% ethanol and 50 ml of water a solution of 2,2 g. of ferrous(II)chloride and 4 ml. of water is added dropwise under stirring at the boiling point of the mixture. Stirring is continued for a further 10 minutes, whereupon the reaction mixture is filtered. To the filtrate 200 ml. of water are added. On cooling crystals precipitate, which are filtered off. Thus 12.3 g. of 4-thiocyanato-1,2-diamino-benzene are obtained. Yield: 74.5%. M.p.: 108°-110° C.

reactant | 2-nitro-4-thiocyanato-aniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
reactant | ethanol | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | 4-thiocyanato-1,2-diamino-benzene | Yield: 74.5% | S(C#N)C1=CC(=C(C=C1)N)N | C7H7N3S
